### PR TITLE
[Merged by Bors] - chore(LinearAlgebra): replace `tsmul`, `tuml` → `tmul` in lemma name

### PR DESCRIPTION
**Pull request by kckennylau**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 1]
```diff
@@ -344,10 +344,12 @@ theorem tmul_smul [DistribMulAction R' N] [CompatibleSMul R R' M N] (r : R') (x
 theorem smul_tmul_smul (r s : R) (m : M) (n : N) : (r • m) ⊗ₜ[R] (s • n) = (r * s) • m ⊗ₜ[R] n := by
   simp_rw [smul_tmul, tmul_smul, mul_smul]
 
-theorem tsmul_eq_smul_one_tuml {S : Type*} [Semiring S] [Module R S] [SMulCommClass R S S]
+theorem tsmul_eq_smul_one_tmul {S : Type*} [Semiring S] [Module R S] [SMulCommClass R S S]
     (s : S) (m : M) : s ⊗ₜ[R] m = s • (1 ⊗ₜ[R] m) := by
   nth_rw 1 [← mul_one s, ← smul_eq_mul, smul_tmul']
 
+@[deprecated (since := "2025-07-08")] alias tsmul_eq_smul_one_tuml := tsmul_eq_smul_one_tmul
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
theorem tmul_eq_smul_one_tmul {S : Type*} [Semiring S] [Module R S] [SMulCommClass R S S]
    (s : S) (m : M) : s ⊗ₜ[R] m = s • (1 ⊗ₜ[R] m) := by
  nth_rw 1 [← mul_one s, ← smul_eq_mul, smul_tmul']

@[deprecated (since := "2025-07-08")] alias tsmul_eq_smul_one_tuml := tmul_eq_smul_one_tmul
```

Comment (kckennylau) [reply Mathlib/LinearAlgebra/TensorProduct/Basic.lean]: Actually "tsmul" is not a valid name either.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Review by Vierkantor — APPROVED** [review]
Nicely spotted!

bors r+
